### ISSUE TITLE
`rw [def]` only works with first applicable equation lemma

### ISSUE THREAD

**Issue by timotree3** [leanprover/lean4#5026]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When using `rw` to unfold a recursive definition using equation lemmas, it seems to find the first equation lemma whose LHS appears in the goal, and then find the leftmost occurrence of that LHS in the goal. I would've expected it to find the leftmost subexpression in the goal which matches *any* of the possible equation lemmas. Similarly, I would expect `nth_rw n` (AKA `rw (config := {occs := .pos [n]})`) to find the nth subexpression which matches any of the equation lemmas, not just the first equation lemma.

### Context

I first noticed then when [a new user was confused by it on Zulip](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Mechanics.20of.20Proof.20--.20Trouble.20rewriting.20factorial.20sometimes.3F/near/462209237). Then I opened [a Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/nth_rw.20and.20equation.20lemmas/near/462219803).

### Steps to Reproduce

```lean
example (x : α) : [x].length = ([] : List α).length + 1 := by
  rw [List.length] -- unsolved goals; rewrites `[].length = 0` instead of `[x].length = [].length + 1`
  -- expected: solves goal because `rw` applies to leftmost applicable subexpression which is `[x].length`

example (x : α) : [x].length = ([] : List α).length + 1 := by
  rw (config := {occs := .pos [1]}) [List.length] -- error: same as above
  -- expected: same as above

example (x : α) : [x].length = ([] : List α).length + 1 := by
  rw (config := {occs := .pos [2]}) [List.length] -- error; `rw` can't find a second occurence for the `[].length = _` equation
  -- expected: new goal is `⊢ [x].length = 0 + 1`

-- Workaround: Use the specific desired equation lemma
example (x : α) : [x].length = ([] : List α).length + 1 := by
  rw [List.length.eq_2] -- success
```

### Versions

`4.12.0-nightly-2024-08-13`
`live.lean-lang.org`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks for your report, it’s good to have this noted down.

I agree that the behavior you describe is not as intuitive as it could. But fixing it might be non-trivial (didn’t have a close look at the `rw` implementation yet) and a work-around exists by specyfing the exact lemma, so I’d say this isn’t going to be of high priority.

**Comment by rzeta0** [comment]
The issue occurs in a translation to vanilla Lean of a "Mechanics of Proof" exercise. I would 

```
import Mathlib.Tactic

---

def pascal : ℕ → ℕ → ℕ
  | a, 0 => 1
  | 0, b + 1 => 1
  | a + 1, b + 1 => pascal (a + 1) b + pascal a (b + 1)
termination_by a b => a + b

---

example (a : ℕ) : pascal a 1 = a + 1 := by
  induction' a with k IH
  · -- base case
    rw [pascal]
  · -- induction step
    calc
      pascal (k + 1) 1 = pascal (k + 1) (0 + 1) := by norm_num
      _ = pascal (k + 1) 0 + pascal k (0 + 1) := by rw [pascal] --- -- -- --  error
      _ = 1 + pascal k 1 := by rw [pascal]
      _ = 1 + (k + 1) := by rw [IH]
      _ = k + 1 + 1 := by ring

```

`ulip discussion here: [https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/can't.20figure.20out.20error.20in.20induction.20proof.20re.20recursive.20fn](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/can't.20figure.20out.20error.20in.20induction.20proof.20re.20recursive.20fn)

**Comment by nomeata** [comment]
Right. Possible work-arounds are
```
_ = pascal (k + 1) 0 + pascal k (0 + 1) := by rw [pascal.eq_3]
```
or
```
_ = pascal (k + 1) 0 + pascal k (0 + 1) := by conv_lhs => rw [pascal]
```
to tell `rw` where to look.

**Comment by rzeta0** [comment]
they are definitely work arounds, and not what we'd want for the eventual design of the language.

I appreciate not all requests can be accommodated :)
